US07635715B2
Step E: Preparation of N-((4-Hydroxy-1,1-dimethyl-2-oxo-6-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycine
A solution of 1,1-dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-6-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate (432 mg, 1045 μmol) in toluene (5 mL), was treated with silica gel (314 mg, 5225 μmol). The reaction was heated at 110° C. After 4 hours, the reaction was cooled to 23° C. and filtered. The residue was washed with DCM (150 mL), and the filtrates were discarded. The residue was subsequently washed with a 10% MeOH/DCM solution (1000 mL). The filtrate was concentrated in vacuo, affording 312 mg of the title compound. MS m/e=358.1 (M+H)+. Calculated for C16H14F3NO5 357.08.

reactant | 1,1-dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-6-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate | 1045 μmol, 432 mg | OC1=C(C(C(C2=CC=C(C=C12)C(F)(F)F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C20H22F3NO5
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-((4-Hydroxy-1,1-dimethyl-2-oxo-6-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycine | 312 mg | OC1=C(C(C(C2=CC=C(C=C12)C(F)(F)F)(C)C)=O)C(=O)NCC(=O)O | C16H14F3NO5
